US05976759
To a solution of 15.0 g of poly(p-hydroxystyrene/p-methylstyrene) obtained according to (2) and 3.5 g of ethylvinyl ether in 150 ml of 1,4-dioxane was added a catalytic amount of pyridinium salt of p-toluenesulfonic acid to carry out reaction with stirring at room temperature for 24 hours. The reaction solution was poured into 5,000 ml of water and crystallized. Precipitated crystals were filtered out, washed with water and dried in vacuo to give 11.5 g of poly(p-1-ethoxyethoxystyrene/p-hydroxystyrene/p-methylstyrene) as white powder. The p-1-ethoxyethoxystyrene unit/p-hydroxystyrene unit/p-methylstyrene unit molar ratio in the polymer was ca. 35:60:5 based on

reactant | ethylvinyl ether | 3.5 g | C(C)OC=C | C4H8O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | 5,000 ml | O | H2O
reactant | 1,4-dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | p-1-ethoxyethoxystyrene p-hydroxystyrene p-methylstyrene | C(C)OCCOC1=CC=C(C=C)C=C1.OC1=CC=C(C=C)C=C1.CC1=CC=C(C=C)C=C1 | InChI=1S/C12H16O2.C9H10.C8H8O/c1-3-11-5-7-12(8-6-11)14-10-9-13-4-2;1-3-9-6-4-8(2)5-7-9;1-2-7-3-5-8(9)6-4-7/h3,5-8H,1,4,9-10H2,2H3;3-7H,1H2,2H3;2-6,9H,1H2
